US07465726B2
2,2-Dimethyl-3-(4-methylpiperazin-1-yl)propanoic acid
The procedure for 2,2-dimethyl-3-piperidin-1-ylpropanoic acid was followed except for replacing benzyl-2,2-dimethyl-3-piperidin-1-ylpropanoate with benzyl 2,2-dimethyl-3-(4-methylpiperazin-1-yl)propanoate. The compound was obtained as a yellow solid. 1H NMR (400 MHz, CDCl3): δ=1.24 (s, 6H), 2.33 (s, 3H), 2.44-2.92 (m, 10H).

reactant | 2,2-dimethyl-3-piperidin-1-ylpropanoic acid | CC(C(=O)O)(CN1CCCCC1)C | C10H19NO2
reactant | benzyl 2,2-dimethyl-3-(4-methylpiperazin-1-yl)propanoate | CC(C(=O)OCC1=CC=CC=C1)(CN1CCN(CC1)C)C | C17H26N2O2
product | 2,2-Dimethyl-3-(4-methylpiperazin-1-yl)propanoic acid | CC(C(=O)O)(CN1CCN(CC1)C)C | C10H20N2O2
